US06933387B2
f) (4R,10aS)-6-Ethyl-4-methyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole
Lithium aluminium hydride (37 mg, 0.97 mmol) was added to a solution of (4R,10aS)-6-ethyl-4-methyl-3,4,10,10a-tetrahydro-2H-pyrazino[1,2-a]indol-1-one (56 mg, 0.24 mmol) in tetrahydrofuran (3 mL) and the resulting suspension was heated to reflux for 1 h. After cooling the reaction was quenched by careful addition of 1 M aqueous sodium potassium tartrate solution (5 mL). Then methanol (5 mL) and ethyl acetate (5 mL) were added, the organic layer was separated, washed with brine, dried (MgSO4), and evaporated. Chromatography on 20 g SiO2 (CH2Cl2/MeOH/NH4OH 95:5:0.1) yielded the title compound (20 mg, 38%). White solid. ISP-MS: m/e=217.3 ([M+H]+).

reactant | Lithium aluminium hydride | 0.97 mmol, 37 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (4R,10aS)-6-ethyl-4-methyl-3,4,10,10a-tetrahydro-2H-pyrazino[1,2-a]indol-1-one | 0.24 mmol, 56 mg | C(C)C1=CC=CC=2C[C@@H]3N(C12)[C@@H](CNC3=O)C | C14H18N2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (4R,10aS)-6-Ethyl-4-methyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole | 20 mg, 38% | C(C)C1=CC=CC=2C[C@@H]3N(C12)[C@@H](CNC3)C | C14H20N2
